Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
cervical cancer
 
Major Surgical or Invasive Procedure:
Radical Abdominal Hysterectomy, Bilateral Salpingo-oopherectomy, 
Bilateral Pelvic Lymphadenectomy, Cystoscopy

 
History of Present Illness:
Dear Dr. ___:

Thank you for referring your lovely patient, Ms. ___, to the
___ for evaluation of her cervical
adenocarcinoma. 

As you know, the patient is a lovely ___ G4P2 with a history of
an endometrial ablation 8 or ___ years ago who had a Pap
demonstrating atypical glandular cells of unknown significance. 
Pap smear also demonstrated the presence of high risk HPV.  She
then underwent colposcopy with biopsies of the cervix at 6 and
12:00 ___s an ECC and EMB.  The endometrial and
endocervical biopsies demonstrated adenocarcinoma, focally
high-grade with papillary features.  The 12:00 biopsy
demonstrated atypical glandular cells suspicious for
adenocarcinoma.  The 6:00 biopsy was benign.  The pathology has
been sent here for review which is still pending at this time.  
A
referral was made to gynecologic oncology for further
consultation and evaluation.  We recommended a CT of the chest
abdomen and pelvis as well as a pelvic MRI.  The CT of the chest
abdomen and pelvis was performed on ___ and did not
demonstrate any evidence of extrauterine disease.  Specifically
there was no retroperitoneal or pelvic adenopathy.  The chest CT
showed a solitary 3 mm right upper lobe lung nodule but 
otherwise
no evidence of intrathoracic malignancy.  A pelvic MRI on
___ demonstrated a 2.1 cm cervical mass with an intact
outer cervical stromal ring without evidence of extracervical
invasion.  There is also no associated lymphadenopathy. 

She presents today for consultation along with her husband.  The
patient admits to some dyspareunia for the past ___s some postcoital bleeding.  She has intermittent lower
abdominal pains.  The patient has not had a menses since her
ablation ___ years ago.  She had hot flashes and night sweats 
___
years ago but these have largely improved.  She underwent a
gastric bypass in ___ and has intentionally lost 60 pounds
following that procedure.  She denies any changes to her bladder
or bowel function.  She does have some baseline frequency and
stress incontinence.

A 10 system review of systems is otherwise negative.

 
Past Medical History:
PMH: Anxiety and depression, history of obesity

PSH: Laparoscopic sleeve gastrectomy, ___ carpal tunnel
surgery age ___, endometrial ablation

OB/GYN: ___,  LMP: Age ___, denies HRT Use, ___ years of OCPs,
Last Pap Smear: AGUS ___, remote history of abnormal Paps
however never has had colposcopy or excisional procedures to her
cervix, + H/O Fibroids, no history of ovarian cysts or other GYN
infections/problems

Medications - 
celexa

Allergies: NKDA                                                  


Health Maintenance: Mammogram: ___, Bone
Density:NA, Routine PCP follow up

 
___ History:
___
Family History:
Family Hx: Maternal cousins and aunts with breast cancer,
maternal cousin and uncle with colon cancer. 

 
Physical Exam:
==========================================
PREOPERATIVE PHYSICAL EXAM
==========================================
BP: 144/58. Heart Rate: 54. Weight: 149. Height: 61. BMI: 28.2.
Well appearing in NAD, presents with husband
___:  Her mucous membranes are moist.
LYMPH NODES:  There is no cervical, submandibular or
supraclavicular lymphadenopathy.
CHEST:  Clear to auscultation bilaterally.
CARDIOVASCULAR:  Regular rate and rhythm without any murmurs.
ABDOMEN:  Soft and nondistended, nontender with palpation.  
There
is no inguinal adenopathy.  no CVAT.
EXTREMITIES:  Without limitations, edema or tenderness
bilaterally
Pelvic: The external genitalia are normal.  The vaginal vault is
normal.  The cervix has a normal contour with a glandular lesion
that is approximately ___ cm from 11 to 1:00 on the anterior
ectocervix.  There is a second satellite lesion at 9:00.  On
bimanual exam the cervix is palpably firm but freely mobile.  On
rectovaginal examination the rectovaginal septum is smooth.  The
parametria are smooth bilaterally.  There is no evidence of
pelvic/adnexal masses.

==========================================
PHYSICAL EXAM ON DISCHARGE:
==========================================

On day of discharge:
Afebrile, vitals stable
Gen: No acute distress
CV: RRR
Pulm: CTAB 
Abd: soft, appropriately tender, nondistended, incision 
clean/dry/intact, no rebound/guarding
___: non-tender, non-edematous

 
Pertinent Results:
==========================================
RELEVANT LABS:
==========================================
CBC, DIFFERENTIAL
___ 06:40AM BLOOD WBC-8.2 RBC-3.63* Hgb-10.3* Hct-32.5* 
MCV-90 MCH-28.4 MCHC-31.7* RDW-12.8 RDWSD-42.2 Plt ___
___ 07:56AM BLOOD WBC-5.4 RBC-2.60* Hgb-7.5* Hct-23.8* 
MCV-92 MCH-28.8 MCHC-31.5* RDW-13.0 RDWSD-42.7 Plt ___
___ 03:00PM BLOOD WBC-5.3 RBC-2.65* Hgb-7.5* Hct-24.0* 
MCV-91 MCH-28.3 MCHC-31.3* RDW-12.7 RDWSD-42.0 Plt ___
___ 08:37AM BLOOD WBC-5.1 RBC-2.56* Hgb-7.3* Hct-23.6* 
MCV-92 MCH-28.5 MCHC-30.9* RDW-12.7 RDWSD-42.8 Plt ___

BMP, ELECTROLYTES
___ 06:40AM BLOOD Glucose-139* UreaN-11 Creat-0.6 Na-140 
K-4.4 Cl-104 HCO3-27 AnGap-9*
___ 08:37AM BLOOD Glucose-137* UreaN-6 Creat-0.6 Na-139 
K-3.9 Cl-101 HCO3-33* AnGap-5*
___ 06:40AM BLOOD Calcium-8.8 Phos-5.0* Mg-1.6
___ 07:56AM BLOOD Calcium-8.1* Phos-2.2* Mg-1.7
___ 08:37AM BLOOD Calcium-8.6 Phos-2.4* Mg-1.5*
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology service 
after undergoing radical abdominal hysterectomy via Pfannesntiel 
incision, bilateral salpingo-oophorectomy, pelvic 
lymphadenectomy, and cystoscopy for stage 1B1 adenocarcinoma of 
the cervix. Please see the operative report for full details.  

Her post-operative course is detailed as follows:
Immediately postoperatively, her pain was controlled with IV 
Dilaudid. Her diet was advanced without difficulty and she was 
transitioned to PO oxycodone/acetaminophen, IV Toradol.  

By post-operative day #2, she was tolerating a regular diet, 
ambulating independently, and pain was controlled with oral 
medications. She remained admitted for continued observation 
pending return of flatus on post-operative day #3. 

On post-operative day #4, she was discharged home in stable 
condition with a Foley in place for prolonged bladder rest with 
outpatient follow-up scheduled for Foley removal on 
post-operative day #14. 

 
Medications on Admission:
celexa
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever 
Do not take more than 4000 mg per day. 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*50 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID 
Hold for loose bowel movements. 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*2 
3.  Enoxaparin Sodium 40 mg SC DAILY 
RX *enoxaparin 40 mg/0.4 mL 40 mg subcutaneous once a day Disp 
#*28 Syringe Refills:*0 
4.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
Take with food. 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*50 Tablet Refills:*1 
5.  Nitrofurantoin (Macrodantin) 100 mg PO DAILY 
Take while Foley in place. 
RX *nitrofurantoin macrocrystal 100 mg 1 capsule(s) by mouth 
once a day Disp #*14 Capsule Refills:*0 
6.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
Do not drive or drink alcohol while taking this medication. 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*60 Tablet Refills:*0 
7.  Citalopram 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
stage 1B1 adenocarcinoma of the cervix

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions: 

Abdominal instructions:  
* Take your medications as prescribed.  We recommend you take 
non-narcotics (i.e. Tylenol, ibuprofen) regularly for the first 
few days post-operatively, and use the narcotic as needed. As 
you start to feel better and need less medication, you should 
decrease/stop the narcotic first.
* Take a stool softener to prevent constipation. You were 
prescribed Colace. If you continue to feel constipated and have 
not had a bowel movement within 48hrs of leaving the hospital 
you can take a gentle laxative such as milk of magnesium.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (tylenol) in 24 
hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 12 
weeks.  
* No heavy lifting of objects >10 lbs for 6 weeks.  
* You may eat a regular diet.
* It is safe to walk up stairs.  

Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.   

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.  

*** Lovenox injections:
* Patients having surgery for cancer have risk of developing 
blood clots after surgery. This risk is highest in the first 
four weeks after surgery. You will be discharged with a daily 
Lovenox (blood thinning) medication. This is a preventive dose 
of medication to decrease your risk of a forming a blood clot. A 
visiting nurse ___ assist you in administering these 
injections. 

*** Home with foley: You were discharged home with a Foley 
(bladder) catheter and received teaching for it prior to 
discharge. You were also given a prescription for Macrodantin 
(nitrofurantoin) antibiotic to prevent a UTI while you have the 
catheter. Please take as prescribed. You should follow-up in Dr. 
___ on ___ for catheter removal. An 
appointment has been requested for you. 

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  


 
Followup Instructions:
___